US08357535B2
1.6. Labeling with Fluorescein-Methotrexate
2.5−5×105 cells were incubated over-night at 29° C. in 0.5 mL of culture medium containing 10 mM fluorescein-labeled methotrexate (F-MTX, Molecular Probes/Invitrogen). Labeled cells were washed in serum-free culture medium and images were recorded using a fluorescence microscope (Olympus CKX41 microscope equipped with a DP50 digital camera) using a FITC filter set.

reactant | fluorescein | 10 mM | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
reactant | methotrexate | CN(CC=1C=NC2=C(N1)C(=NC(=N2)N)N)C=3C=CC(=CC3)C(=O)N[C@@H](CCC(=O)O)C(=O)O | C20H22N8O5
product | Fluorescein Methotrexate | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O.CN(CC=1C=NC2=C(N1)C(=NC(=N2)N)N)C=3C=CC(=CC3)C(=O)N[C@@H](CCC(=O)O)C(=O)O | InChI=1S/C20H22N8O5.C20H12O5/c1-28(9-11-8-23-17-15(24-11)16(21)26-20(22)27-17)12-4-2-10(3-5-12)18(31)25-13(19(32)33)6-7-14(29)30;21-11-5-7-15-17(9-11)25-18-10-12(22)6-8-16(18)19(15)13-3-1-2-4-14(13)20(23)24/h2-5,8,13H,6-7,9H2,1H3,(H,25,31)(H,29,30)(H,32,33)(H4,21,22,23,26,27);1-10,21H,(H,23,24)/t13-;/m0./s1
